US06451816B1
(1-Diphenylmethylazetidin-3-ylmethyl)-amine
A solution of 10 g (40 mmol) 1-diphenylmethylazetidin-3-carbonitrile in 20 ml abs. THF are added dropwise at RT to a suspension of 3.1 g (80 mmol) lithium aluminum hydride in 80 ml abs. THF and stirred overnight, 2 ml ethanol are carefully added to the batch and the batch is filtered. The filtrate is concentrated under vacuum and dispersed between CHCl3 and water. The aqueous phase is extracted twice, each with 50 ml CHCl3, and the combined organic phases are dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH/NH4OH (90/10/0 to 90/10/1). Yield: 5.6 g (57%) of slowly solidifying resin.

reactant | 1-diphenylmethylazetidin-3-carbonitrile | 40 mmol, 10 g | C1(=CC=CC=C1)C(N1CC(C1)C#N)C1=CC=CC=C1 | C17H16N2
reactant | THF | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 80 mmol, 3.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (1-Diphenylmethylazetidin-3-ylmethyl)-amine | C1(=CC=CC=C1)C(N1CC(C1)CN)C1=CC=CC=C1 | C17H20N2
